US06887896B1
(2E)-3-(3-Ethoxy-5,5-dimethyl-5,6-dihydro-naphthalen-2-yl 2-fluoro-but-2-enal (Compound A-58)
A solution of (2E)-3-(3-ethoxy-5,5-dimethyl-5,6-dihydro-naphthalen-2-yl)-2-fluoro-but-2-en-1-ol (Compound A-49, 18 mg, 0.06 mmol), 4 Å molecular sieves (0.1 g) in dichloromethane (3 mL) was treated with tetrapropylammonium perruthenate (10 mg, 0.028 mmol) and 4 methylmorpholine N-oxide (15 mg, 0.12 mmol). The solution was stirred under argon for 30 min and filtered through a silica gel plug (20% ethyl acetate in hexanes). The filtrate was concentrated under vacuum to give the title compound.

reactant | (2E)-3-(3-ethoxy-5,5-dimethyl-5,6-dihydro-naphthalen-2-yl)-2-fluoro-but-2-en-1-ol | 0.06 mmol, 18 mg | C(C)OC=1C(=CC=2C=CCC(C2C1)(C)C)/C(=C(\CO)/F)/C | C18H23FO2
reactant | methylmorpholine N-oxide | 0.12 mmol, 15 mg | C[N+]1(CCOCC1)[O-] | C5H11NO2
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
catalyst | tetrapropylammonium perruthenate | 0.028 mmol, 10 mg | [Ru](=O)(=O)(=O)[O-].C(CC)[N+](CCC)(CCC)CCC
product | 3-Ethoxy-5,5-dimethyl-5,6-dihydro-naphthalen-2-yl 2-fluoro-but-2-enal | C(C)OC=1C(=CC=2C=CCC(C2C1)(C)C)C(=C(C=O)F)C | C18H21FO2
